US09403798B2
3-Methyl 1-tert-butyl 3-methyl-4-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydropyridine-1,3(6H)-dicarboxylate
To a tetrahydrofuran solution of lithium diisopropylamide (6.47 mL, 7.19 mmol), 3-methyl 1-tert-butyl 3-methyl-4-oxopiperidine-1,3-dicarboxylate (1.63 g, 5.99 mmol) was added under nitrogen atmosphere at −78° C. and the resultant mixture was stirred for 30 minutes. To the reaction solution, trifluoromethanesulfonic acid anhydride (1.28 mL, 7.78 mmol) was added and the resultant mixture was stirred for 30 minutes. Thereafter, the temperature of the mixture was raised to room temperature and the mixture was stirred for 15 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain the title compound (714 mg, yield 30%).

reactant | lithium diisopropylamide | 7.19 mmol, 6.47 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl 1-tert-butyl 3-methyl-4-oxopiperidine-1,3-dicarboxylate | 5.99 mmol, 1.63 g | CC1(CN(CCC1=O)C(=O)OC(C)(C)C)C(=O)OC | C13H21NO5
reactant | trifluoromethanesulfonic acid anhydride | 7.78 mmol, 1.28 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Methyl 1-tert-butyl 3-methyl-4-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydropyridine-1,3(6H)-dicarboxylate | 714 mg, yield 30% | CC1(CN(CC=C1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)C(=O)OC | C14H20F3NO7S
